US04836959
The sulphonation can be continued to 1-aminonaphthalene-2,4,7-trisulphonic acid by addition of a further 248 g of 65% strength oleum to the sulphonation mixture. Hydrolysis of the trisulphonation mixture in turn gives pure 1,7-Cleve's acid.

reactant | 1-aminonaphthalene-2,4,7-trisulphonic acid | NC1=C(C=C(C2=CC=C(C=C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO9S3
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | 1,7-Cleve's acid | C1=CC2=C(C=C(C=C2)S(=O)(=O)O)C(=C1)N | C10H9NO3S
